US08912180B2
To a solution of 1-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-2-(difluoromethyl)-1H-benzimidazole (2.2 g) in N,N-dimethylformamide (11 mL) were added potassium carbonate (1.4 g) and morpholine (0.88 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction solution was added water, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by silica gel column chromatography (hexane:ethyl acetate) to obtain 2-(difluoromethyl)-1-[2-(methylsulfanyl)-6-morpholin-4-ylpyrimidin-4-yl]-1H-benzimidazole (2.1 g) as a white powder.

reactant | 1-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-2-(difluoromethyl)-1H-benzimidazole | 2.2 g | ClC1=CC(=NC(=N1)SC)N1C(=NC2=C1C=CC=C2)C(F)F | C13H9ClF2N4S
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.88 mL | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 11 mL | CN(C=O)C | C3H7NO
product | 2-(difluoromethyl)-1-[2-(methylsulfanyl)-6-morpholin-4-ylpyrimidin-4-yl]-1H-benzimidazole | 2.1 g | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)SC)C=CC=C2)F | C17H17F2N5OS
